2181-05-02 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Overnight was very anxious however remained stable. Spiked to 101.4,
   asymptommatic, got cultured.
 BLOOD CULTURED - At [**2181-5-1**] 11:00 PM
 FEVER - 101.4
F - [**2181-5-1**] 08:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-5-2**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.8
C (98.3
   HR: 83 (83 - 123) bpm
   BP: 140/74(90) {123/68(81) - 151/98(108)} mmHg
   RR: 24 (14 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,097 mL
                                                                    954 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,902 mL
                                                                    834 mL
   Blood products:
                                                                  1,075 mL
   Total out:
                                                                  1,800 mL
                                                                  1,150 mL
   Urine:
                                                                  1,800 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,297 mL
                                                                   -196 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General: NAD, pale, weak appearing
   HEENT: EOMI, PERRL, anicteric. OP with evidence of ulceration on EGD,
   no thrush.
   Heart: RRR no m/r/g
   Lungs: CTAB no w/r/r
   Abd: soft NT/ND +BS
   Ext: wwp, no edema
   Neuro: CN II-XII in tact, otherwise nonfocal neuro exam
   Skin: no rash
   Labs / Radiology
   368 K/uL
   9.7 g/dL
   91 mg/dL
   0.8 mg/dL
   20 mEq/L
   4.3 mEq/L
   10 mg/dL
   99 mEq/L
   131 mEq/L
   29.1 %
   17.7 K/uL
        [image002.jpg]
                             [**2181-5-1**]  01:00 PM
                             [**2181-5-1**]  02:05 PM
                             [**2181-5-1**]  05:28 PM
                             [**2181-5-1**]  10:40 PM
                             [**2181-5-2**]  05:17 AM
   WBC
   17.7
   Hct
   24.1
   27.6
   29.4
   29.0
   29.1
   Plt
   368
   Cr
   0.9
   0.8
   Glucose
   92
   91
   Other labs: PT / PTT / INR:14.5/25.5/1.3, ALT / AST:31/39, Alk Phos / T
   Bili:258/1.9, Differential-Neuts:89.9 %, Band:0.0 %, Lymph:5.6 %,
   Mono:4.0 %, Eos:0.3 %, Albumin:2.8 g/dL, LDH:2175 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   27 yo M with metastatic melanoma presenting with large volume
   hematemesis.
   .
   1. Hematemesis - unclear if source is GI vs. nasopharyngeal. EGD done
   upon arrival to MICU showed most evidence of blood in upper airway;
   that being said, there is a lesion suspicious for metastasis in the
   antrum of the stomach, however it does not appear to be the source of
   the bleed at this time. More concerning, however, is the marked
   progression of the nasopharyngeal mass seen on MRI head on [**4-29**]. A
   posterior nasopharyngeal bleed induced by melanoma could explain his
   large volume epistaxis and hematemesis.
   - GI input appreciated
   - ENT visualized two nasopharyngeal masses - ?active bleeding, not
   surgical options
   - rad onc consulted, plan for XRT if no rebleeding
   - if rebleed, plan is to call anesthesia for oral airway, then
   thoracics for possible surgical airway if needed. Then call
   interventional neuroradiology for embolization
   - continue IV ppi [**Hospital1 **] (evidence of gastritis)
   - continue 2 large bore IV's
   - maintain active type and screen
   - monitor Q6 hour hcts x 3
   - s/p 3 unit pRBC's
   - keep NPO for now, consider ADAT to clears
   - if hypotensive, consider adding stress dose steroids
   - monitor on telemetry
   .
   2. Leukocytosis - recently started on prednisone 20mg daily on [**2181-4-20**]
   by [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 5604**]. No evidence of infection at this time, but will
   continue to monitor.
   - f/u cultures
   .
   3. Hyponatremia - patient has been struggling for months now with
   nausea, vomiting and difficulty tolerating PO. He could be very
   dehydrated. Already received 2L NS in ED, and will give pRBC's here,
   with continuation of IVF overnight. On last admission sodium was wnl.
   Cr is just slightly elevated, also raising suspicion for mild prerenal
   azotemia.
   - monitor
   - IVF, NS PRN
   .
   4. Tachycardia - resolving with IVF. Will monitor on tele.
   .
   5. Metastatic Melanoma - currently traveling to [**Location (un) 3327**] to see Dr.
   [**Last Name (STitle) 5606**] for evaluation for the Plexikon clinical trial. He is awaiting
   tumor tissue analysis to determine eligibility. It is unclear when the
   next open slot will be and another cycle of chemotherapy was advised
   given his symptoms, which was initiated on [**2181-4-20**].
   - supportive care, pain regimen
   - further plan per Dr. [**Last Name (STitle) 5607**] and [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 5604**] (they are aware of
   patient
s admission)
   .
   6. FEN - IVF and pRBC's. NPO until plan is finalized, then advance to
   clears as tolerated. Replete lytes prn.
   .
   7. Access - 2 18 gauges
   .
   8. Code - Full, confirmed with patient
   .
   9. ICU Care - iv ppi given evidence of gastritis, pneumoboots
   .
   10. Dispo - ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2181-5-1**] 11:54 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2181-05-03 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Rad/Onc recs: radiation today, ten treatments total, daily recs
   - IR embolization of bilat spheno-palantine branches of IMAX
   - serial HCT stable
   - Post-IR well, UOP [**Month (only) 453**], bolused 1.5L without improvement.
 RADIATION THERAPY - At [**2181-5-2**] 12:40 PM
 ARTERIAL LINE - START [**2181-5-2**] 07:20 PM
 EKG - At [**2181-5-2**] 10:59 PM
 EKG - At [**2181-5-3**] 12:00 AM
 FEVER - 101.2
F - [**2181-5-2**] 12:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2181-5-3**] 01:27 AM
   Hydromorphone (Dilaudid) - [**2181-5-3**] 03:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-5-3**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.8
C (100
   HR: 115 (97 - 119) bpm
   BP: 148/82(102) {123/69(87) - 174/96(118)} mmHg
   RR: 16 (15 - 27) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  4,092 mL
                                                                  2,423 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  3,972 mL
                                                                  2,423 mL
   Blood products:
   Total out:
                                                                  3,070 mL
                                                                    350 mL
   Urine:
                                                                  2,690 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,022 mL
                                                                  2,073 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.41/35/78.[**Numeric Identifier 7**]/21/-1
   Physical Examination
   General: NAD, pale, weak appearing
   HEENT: EOMI, PERRL, anicteric, no thrush.
   Heart: RRR no m/r/g
   Lungs: CTAB no w/r/r
   Abd: soft NT/ND +BS
   Ext: wwp, no edema
   Neuro: CN II-XII in tact, otherwise nonfocal neuro exam
   Skin: no rash
   Labs / Radiology
   411 K/uL
   9.6 g/dL
   108 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.4 mEq/L
   11 mg/dL
   97 mEq/L
   131 mEq/L
   28.9 %
   20.8 K/uL
        [image002.jpg]
                             [**2181-5-1**]  01:00 PM
                             [**2181-5-1**]  02:05 PM
                             [**2181-5-1**]  05:28 PM
                             [**2181-5-1**]  10:40 PM
                             [**2181-5-2**]  05:17 AM
                             [**2181-5-2**]  02:23 PM
                             [**2181-5-2**]  08:35 PM
                             [**2181-5-3**]  04:25 AM
                             [**2181-5-3**]  04:48 AM
   WBC
   17.7
   17.6
   20.8
   Hct
   24.1
   27.6
   29.4
   29.0
   29.1
   29.4
   29.3
   28.9
   Plt
   368
   346
   411
   Cr
   0.9
   0.8
   0.9
   TCO2
   23
   Glucose
   92
   91
   108
   Other labs: PT / PTT / INR:14.0/26.7/1.2, ALT / AST:31/52, Alk Phos / T
   Bili:267/2.0, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.8 %,
   Mono:3.5 %, Eos:0.1 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL,
   LDH:2470 IU/L, Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   27 yo M with metastatic melanoma presenting with large volume
   hematemesis.
   .
   1. Hematemesis - unclear if source is GI vs. nasopharyngeal. EGD done
   upon arrival to MICU showed most evidence of blood in upper airway;
   that being said, there is a lesion suspicious for metastasis in the
   antrum of the stomach, however it does not appear to be the source of
   the bleed at this time. More concerning, however, is the marked
   progression of the nasopharyngeal mass seen on MRI head on [**4-29**]. A
   posterior nasopharyngeal bleed induced by melanoma could explain his
   large volume epistaxis and hematemesis. GI input appreciated. ENT
   visualized two nasopharyngeal masses - ?active bleeding, not surgical
   options. XRT started yesterday, plan for 10 treatments total. IR
   embolization yesterday without complication.
   - if rebleed, plan is to call anesthesia for oral airway, then
   thoracics for possible surgical airway if needed.
   - continue PPI (evidence of gastritis)
   - continue 2 large bore IV's
   - maintain active type and screen
   - monitor hct
   - s/p 3 unit pRBC's
   - ADAT
   - monitor on telemetry
   .
   2. Leukocytosis - recently started on prednisone 20mg daily on [**2181-4-20**]
   by [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 5604**]. No evidence of infection at this time, but will
   continue to monitor.
   - f/u cultures
   .
   3. Hyponatremia - patient has been struggling for months now with
   nausea, vomiting and difficulty tolerating PO. He could be very
   dehydrated. Received 2L NS in ED, and 3 units pRBC's here, with
   continuation of IVF to maintain UOP. On last admission sodium was wnl.
   Cr was also just slightly elevated, also raising suspicion for mild
   prerenal azotemia.
   - monitor
   - IVF, NS PRN
   .
   4. Tachycardia
 Possibly related to tumor, also following cultures as
   above. Appears to resolve some with IVF. Will monitor on tele.
   .
   5. Metastatic Melanoma - currently traveling to [**Location (un) 3327**] to see Dr.
   [**Last Name (STitle) 5606**] for evaluation for the Plexikon clinical trial. He is awaiting
   tumor tissue analysis to determine eligibility. It is unclear when the
   next open slot will be and another cycle of chemotherapy was advised
   given his symptoms, which was initiated on [**2181-4-20**].
   - supportive care, pain regimen
   - further plan per Dr. [**Last Name (STitle) 5607**] and [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 5604**] (they are aware of
   patient
s admission)
   .
   6. FEN - IVF and pRBC's. advance diet as tolerated. Replete lytes prn.
   .
   7. Access - 2 18 gauges, plan to remove a-line prior to transfer to the
   [**Hospital Ward Name **].
   .
   8. Code - Full, confirmed with patient
   .
   9. ICU Care - ppi given evidence of gastritis, pneumoboots
   .
   10. Dispo - ICU for now, plan to transfer to [**Hospital Ward Name **] for XRT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2181-5-1**] 11:54 AM
   Arterial Line - [**2181-5-2**] 07:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: